US05021333
(b) N-[4-(4-t-butylphenoxy)-3-aminophenyl]methane sulphonamide
N-(4-chloro-3-nitrophenyl)methanesulphonamide (50 g, 0.2 mole), 4-t-butylphenol (33 g, 0.22 mole), potassium carbonate (62.1 g, 0.45 mole) and diglyme (50 ml) were heated and stirred at 165°-170° for 24 hr. The mixture was cooled to 110° and xylene (150 ml) followed by a mixture of 10M-hydrochloric acid (55 ml) and water (130 ml) added.

reactant | N-(4-chloro-3-nitrophenyl)methanesulphonamide | 0.2 mole, 50 g | ClC1=C(C=C(C=C1)NS(=O)(=O)C)[N+](=O)[O-] | C7H7ClN2O4S
reactant | 4-t-butylphenol | 0.22 mole, 33 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | potassium carbonate | 0.45 mole, 62.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 55 ml | Cl | ClH
solvent | water | 130 ml | O | H2O
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | diglyme | 50 ml | COCCOCCOC | C6H14O3
product | N-[4-(4-t-butylphenoxy)-3-aminophenyl]methane sulphonamide | C(C)(C)(C)C1=CC=C(OC2=C(C=C(C=C2)NS(=O)(=O)C)N)C=C1 | C17H22N2O3S
